US07838543B2
2′-Chloro-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.15 g, 0.31 mmol) and 2-chlorophenyl boronic acid (0.059 g, 0.38 mmol) to afford 0.074 g (51%). MS (m/z): calcd for C2H25ClN4OS (M+H)+: 466.0; found: 466.2.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.31 mmol, 0.15 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 2-chlorophenyl boronic acid | 0.38 mmol, 0.059 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 2′-Chloro-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)Cl)C)C | C25H25ClN4OS
